US04908384
8-Oxo-5-eicosynoic Acid
A solution of 4.22 g of 8-hydroxy-5-eicosynoic acid, the product of Example 1d, in 200 ml of acetone with vigorous stirring at 5° was added 5.5 ml of Jone's reagent (2.67M). The reaction mixture was stirred for 30 min and then 700 ml of Et2O and 2 ml of MeOH was added and stirred for additional 3 min. The resulting reaction mixture was washed with H2O, saturated NaCl solution and dried over MgSO4. The crude product after removal of solvent was recrystallized in cyclohexane to yield the title compound, mp 79°-80.5°.

reactant | 8-hydroxy-5-eicosynoic acid | 4.22 g | OC(CC#CCCCC(=O)O)CCCCCCCCCCCC | C20H36O3
reactant | Et2O | 700 ml | CCOCC | C4H10O
reactant | MeOH | 2 ml | CO | CH4O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 8-Oxo-5-eicosynoic Acid | O=C(CC#CCCCC(=O)O)CCCCCCCCCCCC | C20H34O3
